US04209611
Glucose monohydrate:
Between about 36 and 48 hours of fermentation time, steffimycin is added to the fermentation as a dimethylformamide solution (25 mg/ml) to a final medium concentration of 25 mg/l. The fermentation is monitored using tlc on silica gel plates with CHCl3 :CH3OH (925:75) as the developing solvent system. The tlc procedure is conducted at half day intervals between the first half day and five days.

reactant | steffimycin | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)O[C@@H]2C3=C(C=C4C(=C3O)C(=O)C5=C(C=C(C=C5O)OC)C4=O)C(=O)[C@@]([C@H]2OC)(C)O)OC)O)O | C28H30O13
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | CHCl3 CH3OH | C(Cl)(Cl)Cl.CO
product | Glucose monohydrate | O.O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | InChI=1S/C6H12O6.H2O/c7-1-3(9)5(11)6(12)4(10)2-8;/h1,3-6,8-12H,2H2;1H2/t3-,4+,5+,6+;/m0./s1
